US06924278B2
A mixture of 7-oxa-4-azaspiro[2.5]octane hydrochloride (200 mg), 2-bromoethanol (0.28 ml) and potassium carbonate (550 mg) in N,N-dimethylformamide (2 ml) was stirred at 90° C. for 48 hours and cooled. The mixture was poured into brine and extracted with dichloromethane. The extract was dried over magnesium sulfate and evaporated under reduced pressure, and purified by column chromatography on silica gel using a mixture of methanol and chloroform (2:98) to give 4-(2-hydroxyethyl)-7-oxa-4-azaspiro[2.5]octane as an oil. This oil was dissolved in ethyl acetate (5 ml) and the solution was added methanesulfonyl chloride (0.16 ml) and triethylamine (0.3 ml). After 30 minutes of stirring at room temperature, the mixture was filtered, evaporated, and purified by column chromatography on silica gel using a mixture of ethyl acetate and n-hexane (20:80˜30:70) to give 4-(2-chloroethyl)-7-oxa-4-azaspiro[2.5]octane (140 mg) as an oil.

reactant | 7-oxa-4-azaspiro[2.5]octane hydrochloride | 200 mg | Cl.C1CC12NCCOC2
reactant | 2-bromoethanol | 0.28 ml | BrCCO | C2H5BrO
reactant | potassium carbonate | 550 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 4-(2-hydroxyethyl)-7-oxa-4-azaspiro[2.5]octane | OCCN1C2(CC2)COCC1 | C8H15NO2
